US05171863
4-(Methoxyethoxymethoxymethyl)-2-trimethylsilylfuran
2-Methoxyethoxymethyl chloride (0.11 ml, 0.96 mmol) was added to a solution of 4-hydroxymethyl-2-trimethylsilylfuran, also known as (2-trimethylsilyl-4-furyl)methanol, (162.8 mg, 0.96 mmol) and dimethylaniline (0.13 ml, 0.1 mmol) in dichloromethane (5 ml) at 0°. After stirring at room temperature overnight (ca. 16 hours), the reaction mixture was washed successively with water, dilute hydrochloric acid and water. Evaporation of the dried (magnesium sulfate) dichloromethane layer gave an oil, which was purified by preparative silica TLC (developed with 30% ethyl ether/hexane) to give the title ether as a colorless oil.

reactant | 2-Methoxyethoxymethyl chloride | 0.96 mmol, 0.11 ml | COCCOCCl | C4H9ClO2
reactant | 4-hydroxymethyl-2-trimethylsilylfuran | OCC=1C=C(OC1)[Si](C)(C)C | C8H14O2Si
reactant | (2-trimethylsilyl-4-furyl)methanol | 0.96 mmol, 162.8 mg | C[Si](C=1OC=C(C1)CO)(C)C | C8H14O2Si
reactant | dimethylaniline | 0.1 mmol, 0.13 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(Methoxyethoxymethoxymethyl)-2-trimethylsilylfuran | COCCOCOCC=1C=C(OC1)[Si](C)(C)C | C12H22O4Si
